US08669254B2
2-Chloro-4-(4-chloro-phenyl)-5-fluoro-pyrimidine
A mixture of 5.00 g 2,4-dichloro-5-fluoropyrimidine, 4.683 g p-chlorophenylboronic acid, 1.730 g tetrakistriphenylphosphino palladium and 8.278 g potassium carbonate in 125 ml tetrahydrofurane and 125 ml water was heated to reflux for 3 h. The reaction mixture was cooled to room temperature and diluted with ethyl acetate. The phases were separated and the organic phase was washed with brine dried over sodium sulfate and evaporated. The solid residue was triturated in ca 60 ml methanol for 30 min. The solids were collected by filtration to yield 5.2 g of an off white solid (contains some boronic acid which gives a start spot). The mother liquor was evaporated and the residue was purified by chromatography on silica gel with heptane:ethyl acetate=8:2 to 1:1 to yield 1.0 g of the product as white solid. Both crops were combined and dissolved in ca 50 ml dichloromethane and filtered over ca 50 g silica gel with dichloromethane to remove a polar start spot. The filtrate was concentrated under aspirator vacuum whereby precipitation occurred. The solid was collected by filtration to yield 5.76 g of the title compound as white crystals. MS (EI): 230.1 and 228.1 (M+H).

reactant | 2,4-dichloro-5-fluoropyrimidine | 5.00 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | p-chlorophenylboronic acid | 4.683 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 8.278 g | C([O-])([O-])=O.[K+].[K+]
reactant | boronic acid | B(O)O | BH3O2
solvent | tetrahydrofurane | 125 ml | O1CCCC1 | C4H8O
solvent | water | 125 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphino palladium | 1.730 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-Chloro-4-(4-chloro-phenyl)-5-fluoro-pyrimidine | 1.0 g | ClC1=NC=C(C(=N1)C1=CC=C(C=C1)Cl)F | C10H5Cl2FN2
